US05116875
5.00 Grams of 5-chloro-2-fluoro-4-mercaptoaniline, 12.2 g of 3,4-dichlorobenzotrifluoride and 4.31 g of potassium carbonate were dissolved in 30 ml of dimethylformamide, and the resulting solution was stirred for 2 hours at a temperature of from 100° to 110° C. in an oil bath. Thereafter, the reaction solution was poured into water and extracted with three 200-ml portions of diethyl ether. The extract obtained was washed with water, dried, filtered and concentrated. The residue obtained was subjected to chromatography on silica gel to obtain 6.57 g of 5-chloro-2-fluoro-4-[2-chloro-4-(trifluoromethyl)phenylthio]aniline.

reactant | 5-chloro-2-fluoro-4-mercaptoaniline | ClC=1C(=CC(=C(N)C1)F)S | C6H5ClFNS
reactant | 3,4-dichlorobenzotrifluoride | 12.2 g | ClC=1C=C(C=CC1Cl)C(F)(F)F | C7H3Cl2F3
reactant | potassium carbonate | 4.31 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 5-chloro-2-fluoro-4-[2-chloro-4-(trifluoromethyl)phenylthio]aniline | 6.57 g, Yield 66% | ClC=1C(=CC(=C(N)C1)F)SC1=C(C=C(C=C1)C(F)(F)F)Cl | C13H7Cl2F4NS
